USRE034299
3-(1-Methyl-1,2,3,6-tetrahydropyridin-4-yl)-5-nitro-1-pyridin-3-yl-1H-indole.
3-(1-Methyl-1,2,3,6-tetrahydropyridin-4-yl)-5-nitro-1H-indole (4.5 g), 3-bromopyridin (6.0 g), CuBr (4.5 g) and K2CO3 (8.0 g) in N-methyl-2-pyrrolidone (25 ml) were heated under stirring at 160° C. for 2.5 h. After cooling the reaction mixture was poured into diluted NH4OH (500 ml) and extracted with ethyl acetate (3×300 ml). The combined organic phases were dried (MgSO4) and the solvent evaporated. The title compound was obtained by recrystallization from acetone. Yield: 3.4 g (58%). M.p. 175°-177° C.

reactant | 3-(1-Methyl-1,2,3,6-tetrahydropyridin-4-yl)-5-nitro-1H-indole | 4.5 g | CN1CCC(=CC1)C1=CNC2=CC=C(C=C12)[N+](=O)[O-] | C14H15N3O2
reactant | 3-bromopyridin | 6.0 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | K2CO3 | 8.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NH4OH | 500 ml | [NH4+].[OH-]
solvent | N-methyl-2-pyrrolidone | 25 ml | CN1C(CCC1)=O | C5H9NO
product | 3-(1-Methyl-1,2,3,6-tetrahydropyridin-4-yl)-5-nitro-1-pyridin-3-yl-1H-indole | CN1CCC(=CC1)C1=CN(C2=CC=C(C=C12)[N+](=O)[O-])C=1C=NC=CC1 | C19H18N4O2
